US07417169B2
2-Hydroxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-benzoic acid
To a solution of benzyl 2-benzyloxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (0.243 g) in methanol (6 mL)/tetrahydrofuran (6 mL) was added 10% palladium-carbon (0.05 g) at room temperature under an atmosphere of argon. The mixture was stirred at room temperature for 3 hrs under an atmosphere of hydrogen. The catalyst was removed by filtration, and the solvent was evaporated under reduced pressure to afford the title compound (0.146 g).

reactant | benzyl 2-benzyloxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.243 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C27H29BO5
reactant | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | methanol | 6 mL | CO | CH4O
catalyst | palladium-carbon | 0.05 g | [C].[Pd]
product | 2-Hydroxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-benzoic acid | 0.146 g | OC1=C(C(=O)O)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H17BO5
